US05576321
Preparation of (2S)-(+)-3-[4-(6-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 193 from 6-chloro-3-(piperidin-4-yl)-1H-indole (1.00 g, 4.3 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.81 g, 4.3 mmol). The product was isolated as a white foam. Yield 1.15 g (64%). mp 90°-95° C. FDMS m/e=423 (M+ of free base). (α[D]589 =+8.81 (c=0.98, methanol/dimethylsulfoxide).

reactant | 6-chloro-3-(piperidin-4-yl)-1H-indole | 4.3 mmol, 1.00 g | ClC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C13H15ClN2
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 4.3 mmol, 0.81 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | methanol dimethylsulfoxide | CO.CS(=O)C
product | (2S)-(+)-3-[4-(6-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC1=CC=C2C(=CNC2=C1)C1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C24H26ClN3O2
